* FYP2
D_D1         N00210 N00240 FYPDD 
R_R1         N00190 N00206  50 TC=0,0 
R_R2         0 N00240  15000 TC=0,0 
L_L1         0 N00210  15n  
C_C1         N00206 N00210  1.2p  TC=0,0 
C_C2         0 N00240  1000p  TC=0,0 
V_V1         N00190 0   PWL   
+ FILE "D:\FYP\Waveforms\wave_1_tone_10000000_band.csv" 
+  

